US08377923B2
HOBt (1.76 g) and WSC•monohydrochloride (2.49 g) were added to a solution of 2-(2,4-difluorophenoxy)-2-methylpropanoic acid (2.34 g) in acetonitrile (27 ml), followed by stirring at room temperature for one hour. This solution was added dropwise to a solution of hydrazine monohydrate (3.25 g) and triethylamine (3.0 ml) in acetonitrile (20 ml) under ice cooling, followed by stirring at room temperature for 2 hours, the reaction solution was concentrated under reduced pressure, and saturated aqueous sodium bicarbonate was added thereto, followed by extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=98:2) to obtain 2-(2,4-difluorophenoxy)-2-methylpropanohydrazide (1.74 g).

reactant | HOBt | 1.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(2,4-difluorophenoxy)-2-methylpropanoic acid | 2.34 g | FC1=C(OC(C(=O)O)(C)C)C=CC(=C1)F | C10H10F2O3
reactant | hydrazine monohydrate | 3.25 g | O.NN
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 27 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(2,4-difluorophenoxy)-2-methylpropanohydrazide | 1.74 g | FC1=C(OC(C(=O)NN)(C)C)C=CC(=C1)F | C10H12F2N2O2
